US05248682
A mixture of 4,6-bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-α-(3 -pyridinyl)-2-pyrimidineethanol (350 mg), sodium acetate (10 g) and acetic anhydride (7 mL) in toluene (100 mL) is heated at reflux for 8 hours. The reaction mixture is cooled and the solvent is evaporated. Dichlorobenzene (30 mL) is added and the reaction mixture is heated at 190° C. for 30 minutes. The reaction mixture is cooled and partitioned between ethyl acetate and water. The aqueous layer is adjusted to pH 4 with 1N HCl. The organic layer is collected and evaporated. Purification of the residue by flash chromatography (silica, 1:1 ethyl acetate/hexane) followed by recrystallization from hexane gives pure 4,6-bis(1,1-dimethylethyl)-2-[[2-(3-pyridinyl)]ethenyl]-5-pyrimidinol (130 mg, 40%); mp 150°-151° C.

reactant | 4,6-bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-α-(3 -pyridinyl)-2-pyrimidineethanol | 350 mg | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)CC(O)C=1C=NC=CC1 | C23H35N3O4
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 7 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4,6-bis(1,1-dimethylethyl)-2-[[2-(3-pyridinyl)]ethenyl]-5-pyrimidinol | 130 mg, 40% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=CC=1C=NC=CC1 | C19H25N3O
